US07812165B2
A) Bis(4-methoxybenzyl)cyanamide.
A solution of 1 g of cyanamide in 50 ml of DMF is admixed with 13.1 g of K2CO3 and 6.5 ml of 4-methoxybenzyl chloride and then heated at 80° C. for 20 hours. After cooling to AT, the reaction mixture is poured into water, and extracted with AcOEt, the organic phase is dried over MgSO4 and the solvent is evaporated under vacuum. The residue is chromatographed on silica gel, eluting with an AcOEt/cyclohexane mixture (75/25; v/v). This gives 6.5 g of the expected compound in the form of an oil.

reactant | cyanamide | 1 g | N#CN | CH2N2
reactant | K2CO3 | 13.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-methoxybenzyl chloride | 6.5 ml | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | Bis(4-methoxybenzyl)cyanamide | COC1=CC=C(CN(C#N)CC2=CC=C(C=C2)OC)C=C1 | C17H18N2O2
